US04123250
Preparation of 3-Chloro-6-(methylsulfonyl)-2,4-dinitrotoluene
To a slurry of 4-(methylsulfonyl)-2,6-dinitro-m-cresol (4.9 g.) in phosphorus oxychloride (21 ml.), N,N-dimethylaniline is added at such a rate that the temperature does not exceed 34° C. When the addition is complete and the initial exotherm has subsided, the mixture is heated to 60°-65° C. and held there for 10 minutes. The reaction mixture is carefully decomposed by pouring into an ice and water mixture. The desired product as a precipitated solid (4.49 g.) is collected and recrystallized from benzene-pet ether to give a solid with m.p. of 174°-175° C. Analysis: Calcd. for C8H7ClN2O6S: C, 32.59; H, 2.37; N, 9.50; S, 10.86; Cl, 12.05. Found: C, 32.62; H, 2.37; N, 9.39; S, 10.65; Cl, 12.25.

reactant | 4-(methylsulfonyl)-2,6-dinitro-m-cresol | 4.9 g | CS(=O)(=O)C=1C(=C(C(=C(C1)[N+](=O)[O-])O)[N+](=O)[O-])C | C8H8N2O7S
reactant | water | O | H2O
reactant | phosphorus oxychloride | 21 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
product | 3-Chloro-6-(methylsulfonyl)-2,4-dinitrotoluene | ClC=1C(=C(C(=CC1[N+](=O)[O-])S(=O)(=O)C)C)[N+](=O)[O-] | C8H7ClN2O6S
